US08048979B2
Synthesis of Modified Cardanol-HMDI-HEMA
Cardanol was modified by coupling it with 2-chloroethanol in presence of K2CO3 and KI in DMF under inert atmosphere. Hexamethylene diisocyanate [HMDI] (0.49 g, 0.003 moles) in 10 ml dry DMF was taken in a 100 ml two necked flask and the contents were cooled with ice. HEMA (0.38 g, 0.003 moles) was added drop wise with constant stirring under nitrogen. The reaction was allowed to proceed under ice cold condition for 2 hr. Then the reaction was kept at room temperature for 1 hr. After that the reaction was changed to ice cold condition and 3 drops of DBTDL was added as catalyst followed by drop wise addition of modified cardanol (1 g, 0.003 moles) in 10 ml DMF. It was left stirring under cold condition for a further 1 hr and allowed to attain room temperature. Then the reaction was heated to 50° C. for 12 hrs. The contents were poured to 150 ml water and extracted with dichloromethane. It was then washed with plenty of water and dried in vacuum oven at 60° C. for 12 hrs. Yield=62% (1.17 g). The same synthetic procedure is adopted for all types of variation in the diisocyanate chemistry or in the hydroxy(meth)acryloxy chemistry or natural resource with active hydrogen atom to obtain the final UV curable telechelic pre polymer with varying R1, R2, R3, R4, R5 and R6.

reactant | Cardanol | C=CC/C=C\C/C=C\CCCCCCCC1=CC=CC(=C1)O | C21H30O
reactant | 2-chloroethanol | ClCCO | C2H5ClO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | Hexamethylene diisocyanate | 0.003 moles, 0.49 g | C(CCCCCN=C=O)N=C=O | C8H12N2O2
reactant | HEMA | 0.003 moles, 0.38 g | CC(=C)C(=O)OCCO | C6H10O3
reactant | cardanol | 0.003 moles, 1 g | C=CC/C=C\C/C=C\CCCCCCCC1=CC=CC(=C1)O | C21H30O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 150 ml | O | H2O
product | Cardanol HMDI HEMA | Yield=62% | C=CC/C=C\C/C=C\CCCCCCCC1=CC=CC(=C1)O.C(CCCN=C=O)CCN=C=O.CC(=C)C(=O)OCCO | InChI=1S/C21H30O.C8H12N2O2.C6H10O3/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-16-20-17-15-18-21(22)19-20;11-7-9-5-3-1-2-4-6-10-8-12;1-5(2)6(8)9-4-3-7/h2,4-5,7-8,15,17-19,22H,1,3,6,9-14,16H2;1-6H2;7H,1,3-4H2,2H3/b5-4-,8-7-;;
